US04261999
A suspension of (RS)-5-hydroxymethyl-6-[(pyrid-3-yl)thiocarbamoyl]-4,5,6,7-tetrahydrothieno[2,3-c]pyridine (2.3 g) in 6 N hydrochloric acid (34 cc) is heated under reflux for 2 hours. The resulting brown solution is decolorised with animal charcoal and filtered. The filtrate is rendered alkaline to pH 11 with a 15% aqueous solution of potassium carbonate and extracted with methylene chloride (150 cc and then 3×100 cc). The organic extracts are combined and dried over sodium sulphate. After filtering and concentrating the filtrate to dryness under reduced pressure (25 mm Hg; 3.3 kPa) at 40° C., an oil is obtained which crystallises slowly. This oil is dissolved in a mixture, heated under reflux, of isopropanol and diisopropyl ether (4:1 by volume; 100 cc). The solution is cooled at +5° C. for 20 hours. The solid is filtered off, washed with diisopropyl ether (50 cc) and dried at 60° C. under reduced pressure (0.1 mm Hg; 0.013 kPa). (RS)-7-[(Pyrid-3-yl)imino]-4,4a,5,9-tetrahydrothiazolo[ 3,4-a]thieno[3,2-d]pyridine (1.2 g) is obtained in the form of white crystals melting at 136° C.

reactant | (RS)-5-hydroxymethyl-6-[(pyrid-3-yl)thiocarbamoyl]-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 2.3 g | OCC1CC2=C(CN1C(NC=1C=NC=CC1)=S)SC=C2 | C14H15N3OS2
reactant | charcoal | C | CH4
solvent | hydrochloric acid | 6 N, 34 cc | Cl | ClH
product | (RS)-7-[(Pyrid-3-yl)imino]-4,4a,5,9-tetrahydrothiazolo[ 3,4-a]thieno[3,2-d]pyridine | 1.2 g | N1=CC(=CC=C1)N=C1SCC2N1CC1=C(C2)C=CS1 | C14H13N3S2
